US06605629B1
To a mixture of 2-chlorothiophene (36.0 g) and adipic acid monoethyl ester chloride (36.9 g) was added gradually aluminum chloride (50.8 g) with stirring under ice-cooling, and the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into ice water (1 L) and extracted with diethyl ether (200 ml×2). The organic layer was washed with a 10% aqueous solution of sodium hydrogen carbonate (200 ml), dried over anhydrous magnesium sulfate, and concentrated to give ethyl 6-(5-chloro-2-thienyl)-6-oxohexanoate as an oil (52.5 g, quantitative).

reactant | 2-chlorothiophene | 36.0 g | ClC=1SC=CC1 | C4H3ClS
reactant | adipic acid monoethyl ester chloride | 36.9 g | [Cl-].C(C)OC(CCCCC(=O)O)=O
reactant | aluminum chloride | 50.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | ethyl 6-(5-chloro-2-thienyl)-6-oxohexanoate | ClC1=CC=C(S1)C(CCCCC(=O)OCC)=O | C12H15ClO3S
